US05332741
8-{{3-[4-(2-METHOXYPHENYL)PIPERAZIN-1-YL]-3-OXOPROPYL}OXY}THIOCHROMAN
Under argon, 110 mg (4.61×10-4 mol) of 3-[(thiochroman-8-yl)oxy]propionic acid (Indian Journal of Chemistry (1977) 15 pp. 715-719) are dissolved in 1.5 cm3 of dimethylformamide. The flask is cooled in an ice-bath. 100 mg (5.07×10-4 mol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 71 mg (4.61×10-4 mol) of 1-hydroxybenzotriazole and 100 mg (5.07×10-4 mol) of 1-(2-methoxyphenyl)piperazine are added. The mixture is allowed to come gradually to room temperature. After 24 hours, the solvent is evaporated off. The residue is taken up in H2O and extracted with CH2Cl2. The product is dried over MgSO4.

reactant | 3-[(thiochroman-8-yl)oxy]propionic acid | 4.61×10-4 mol, 110 mg | S1CCCC2=CC=CC(=C12)OCCC(=O)O | C12H14O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.07×10-4 mol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.61×10-4 mol, 71 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(2-methoxyphenyl)piperazine | 5.07×10-4 mol, 100 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | dimethylformamide | 1.5 cm3 | CN(C=O)C | C3H7NO
product | 8-{{3-[4-(2-METHOXYPHENYL)PIPERAZIN-1-YL]-3-OXOPROPYL}OXY}THIOCHROMAN | COC1=C(C=CC=C1)N1CCN(CC1)C(CCOC=1C=CC=C2CCCSC12)=O | C23H28N2O3S
